US08957070B2
1-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]ethanol
To a solution of 2-(1,3-thiazol-2-yl)-1H-indole-7-carbaldehyde (0.446 g) in anhydrous tetrahydrofuran (10 mL) was added 1.0 M methylmagnesium bromide (4 mL) under ice-cooling, and the mixture was stirred at 0° C. for 1 hr. Under ice-cooling, 1.0 M methylmagnesium bromide (4 mL) was added to the reaction mixture, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was ice-cooled, 1.0 M methylmagnesium bromide (2 mL) was added, and the mixture was stirred at room temperature for 1 hr. A saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by preparative HPLC to give the title compound (0.090 g, yield 19%) as colorless crystals.

reactant | 2-(1,3-thiazol-2-yl)-1H-indole-7-carbaldehyde | 0.446 g | S1C(=NC=C1)C=1NC2=C(C=CC=C2C1)C=O | C12H8N2OS
reactant | methylmagnesium bromide | 1.0 M, 4 mL | C[Mg]Br
reactant | methylmagnesium bromide | 1.0 M, 4 mL | C[Mg]Br
reactant | methylmagnesium bromide | 1.0 M, 2 mL | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]ethanol | 0.090 g, yield 19% | S1C(=NC=C1)C=1NC2=C(C=CC=C2C1)C(C)O | C13H12N2OS
